US07084178B2
trans-2-[(4-Chlorobenzenesulfonyl)-(4-trifluoromethoxy-benzyl)-amino]-cyclohexanecarboxylic acid amide.
The titled compound was prepared in 20% yield from trans-2-(4-chlorobenzenesulfonylamino)-cyclohexanecarboxylic acid amide and 1-bromomethyl-4-trifluoromethoxy-benzene according to the procedure described in Example 11: 1H NMR (DMSO-d6) δ 7.63 (d, 2 H, J=8.0 Hz), 7.43 (m, 4 H), 7.37 (s br, 1 H), 7.18 (d, 2 H, J=8.0 Hz), 6.81 (s br, 1 H), 4.36 (AB2, 2 H,Δv=12,Jab=72 Hz), 4.01 (s br, 1 H), 1.83 (m, 1 H), 1.30 (m, 8 H); MS m/e 490.97 (M+H)+.

reactant | trans-2-(4-chlorobenzenesulfonylamino)-cyclohexanecarboxylic acid amide | ClC1=CC=C(C=C1)S(=O)(=O)N[C@H]1[C@@H](CCCC1)C(=O)N | C13H17ClN2O3S
reactant | 1-bromomethyl-4-trifluoromethoxy-benzene | BrCC1=CC=C(C=C1)OC(F)(F)F | C8H6BrF3O
product | trans-2-[(4-Chlorobenzenesulfonyl)-(4-trifluoromethoxy-benzyl)-amino]-cyclohexanecarboxylic acid amide | 20% yield | ClC1=CC=C(C=C1)S(=O)(=O)N([C@H]1[C@@H](CCCC1)C(=O)N)CC1=CC=C(C=C1)OC(F)(F)F | C21H22ClF3N2O4S
